US06200254B1
To a flask containing a solution of 16-hydroxycyclohexadeca-4E,12E-dien-1-one (2.5 g, 10 mmole), triethylamine (2.02 g, 20 mmole) in 1,4-dioxane (20 ml) was added chlorotrimethylsilane (2.17 g, 20 mmole) in one portion at room temperature. The reaction was stirred for 18 hours and then quickly filtered through a fritted glass fimnel. The resultant solution of the silyl ether was transferred to a pressure-equalizing dropping funnel and used directly in the following operations. A 2-neck round bottomed flask was charged with sodium (460 mg, 20 mmole), chlorotrimethylsilane (2.17 g, 20 mmole) and 1,4-dioxane (15 ml) and the mixture was warmed to 45° C. The solution of the silyl ether prepared above was added slowly (30 minutes via a pressure-equalizing dropping funnel) while gradually increasing the reaction temperature to 110° C. The mixture was stirred at 110° C. for 16 hours, cooled to room temperature, and to the mixture was added methanol. The reaction mixture was poured onto water, extracted with ether, dried with sodium sulfate, filtered and evaporated to give the crude ketone product. This material was purified by chromatography (CH2Cl2) to afford cyclohexadeca-4E,12E-dien-1-one (1.24 g, 53% yield) as a colorless liquid. C16H26O (234.39 g/mole). 1HNMR (500 MHz, CDCl3): 1.21 (m, 4H), 1.34 (m, 4H), 1.61 (m, 2H), 1.97 (m, 4H), 2.03 (q, 2H), 2.28 (m, 2H), 2.39 (m, 4H), 5.28 (m, 1H), 5.34 (m, 3H) ppm. 13CNMR (125 MHz, CDCl3): 22.3, 26.8, 27.0, 27.6, 28.1, 28.9, 30.8, 30.9, 31.4, 41.4, 42.8, 128.9, 129.3, 131.4, 132.1, 211.6 ppm. IR (νmax(cm−1)): 2950(s), 2920(s), 2860(s), 1715(s), 1440(m), 1260(s), 980(s), 800(s). MS (m/z): 234(M+), 216, 205, 191, 177, 163, 149, 135, 123, 109, 95, 81, 67, 55, 41.

reactant | 16-hydroxycyclohexadeca-4E,12E-dien-1-one | 10 mmole, 2.5 g | OC1CC/C=C/CCCCCC/C=C/CCC1=O | C16H26O2
reactant | triethylamine | 20 mmole, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 20 mmole, 2.17 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium | 20 mmole, 460 mg | [Na] | Na
reactant | chlorotrimethylsilane | 20 mmole, 2.17 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | silyl ether | [SiH3]O[SiH3] | H6OSi2
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | cyclohexadeca-4E,12E-dien-1-one | 1.24 g, 53% yield | C1(CC\C=C\CCCCCC\C=C\CCC1)=O | C16H26O
